US06090950
Diisopropyl (R,R)-tartrate was prepared according to the procedure described in J. Am. Chem. Soc., 1981, 6237. 400 g of (R,R)-tartaric acid, 400 mL of isopropanol and 5 g of p-TsOH were heated in refluxing benzene to afford, following distillation, 201 g (55%) of the above-titled compound: bp.=103-105° C. (2 torr) (lit. 152° C. (12 torr)).

reactant | (R,R)-tartaric acid | 400 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | isopropanol | 400 mL | C(C)(C)O | C3H8O
reactant | p-TsOH | 5 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Diisopropyl (R,R)-tartrate | C(=O)(OC(C)C)[C@H](O)[C@@H](O)C(=O)OC(C)C | C10H18O6
